US05236898
A5, Ile;
A8, Glu or Asp;

reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
reactant | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
product | Ile | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
